US05134152
(2R*,3R*)-2-(4-Chlorophenyl)-3-methyl-1-(1H-1,2,4-triazol -1-yl)-2,4-pentanediol
0.35 ml (0.35 mmole) of tetrabutylammonium fluoride (as a 1 molar tetrahydrofuran solution) was added to a solution of 85.4 mg (0.233 mmole) of (2R*,3R*)-3-methyl-2-(4-chlorophenyl)-2-(trimethylsilyloxy)-1-(1H-1,2,4-triazol -1-yl)-4-pentanol (prepared as described in Preparation 7) in 2.5 ml of tetrahydrofuran, and then the mixture was stirred at room temperature for 30 minutes. At the end of this time, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, to afford 64 mg (93%) of the title compound. Judging from the NMR spectrum, this compound is thought to be about a 5:1 mixture of the (2R*,3R*,4S*) isomer and the (2R*,3R*,4R*) isomer.

reactant | tetrabutylammonium fluoride | 0.35 mmole, 0.35 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (2R*,3R*)-3-methyl-2-(4-chlorophenyl)-2-(trimethylsilyloxy)-1-(1H-1,2,4-triazol -1-yl)-4-pentanol | 0.233 mmole, 85.4 mg | C[C@@H]([C@@](CN1N=CN=C1)(O[Si](C)(C)C)C1=CC=C(C=C1)Cl)C(C)O | C17H26ClN3O2Si
reactant | water | O | H2O
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 molar | O1CCCC1 | C4H8O
product | (2R*,3R*)-2-(4-Chlorophenyl)-3-methyl-1-(1H-1,2,4-triazol -1-yl)-2,4-pentanediol | 64 mg, 93% | ClC1=CC=C(C=C1)[C@@](CN1N=CN=C1)([C@@H](C(C)O)C)O | C14H18ClN3O2
